US05541195
(2R*,4S*)-2-Benzyl-1-(diphenylacetyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
248 mg (1.17 mmol) of diphenylacetic acid are reacted in analogy to Example 2j first with 128 μl (1.76 mmol) of thionyl chloride and subsequently with 200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine to give the product. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.45, FD-MS: M+ =621.

reactant | diphenylacetic acid | 1.17 mmol, 248 mg | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | thionyl chloride | 1.76 mmol, 128 μl | S(=O)(Cl)Cl | Cl2OS
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | ammonia | N | H3N
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | (2R*,4S*)-2-Benzyl-1-(diphenylacetyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C38H34F3N3O2
